data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(OC)c(NN=CCc2ccccc2)cc1C.Cl[Zn]Cl", "products": "COc1cc(OC)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C"}, {"reactants": "COc1cc(OC)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C", "products": "COc1cc(OC)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C.[H+]"}, {"reactants": "COc1cc(OC)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(OC)ccc2C)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(OC)ccc2C)C(=N)C=C1", "products": "COc1cc(OC)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C"}, {"reactants": "COc1cc(OC)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C", "products": "COc1cc(OC)c2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(OC)c2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(OC)c2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(OC)c2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(OC)c2c(c1C)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(OC)c2c(c1C)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(OC)c2[nH]cc(-c3ccccc3)c2c1C.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "ON[C@@H]1C(F)[C@H](CF)C[C@H]2CC=CC[C@H]21.C=O", "products": "[O-]C[NH+](O)[C@@H]1C(F)[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "[O-]C[NH+](O)[C@@H]1C(F)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "OCN(O)[C@@H]1C(F)[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "OCN(O)[C@@H]1C(F)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "C=[N+](O)[C@@H]1C(F)[C@H](CF)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(F)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(F)[C@H](CF)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(F)[C@H](CF)C[C@H]2CC=CC[C@H]21", "products": "FC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1F"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(Cl)c(F)c1)C1C2CCC1C2", "products": "[O][C](c1ccc(Cl)c(F)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(Cl)c(F)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)c(F)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)c(F)c1", "products": "OC(=CC1C=CCC1)c1ccc(Cl)c(F)c1"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(Cl)c(F)c1", "products": "O=C(CC1C=CCC1)c1ccc(Cl)c(F)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(F)c1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(F)c1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(F)c1OC)C(C)C", "products": "COc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "CC(C)c1ccc(C(=O)C2C3CCC2C3)cc1", "products": "CC(C)c1ccc([C]([O])C2C3CCC2C3)cc1"}, {"reactants": "CC(C)c1ccc([C]([O])C2C3CCC2C3)cc1", "products": "CC(C)c1ccc(C([O])=CC2C[CH]CC2)cc1"}, {"reactants": "CC(C)c1ccc(C([O])=CC2C[CH]CC2)cc1", "products": "CC(C)c1ccc(C(O)=CC2C=CCC2)cc1"}, {"reactants": "CC(C)c1ccc(C(O)=CC2C=CCC2)cc1", "products": "CC(C)c1ccc(C(=O)CC2C=CCC2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(Cl)cc(Cl)cc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(Cl)cc(Cl)c[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(Cl)cc(Cl)c[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Cl)cc(Cl)cc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Cl)cc(Cl)cc21", "products": "CN1C(=O)C2(C=CCC2)c2c(Cl)cc(Cl)cc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
